US06288061B1
5-(4-Chlorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide, 3-dimethylaminopropanol, triphenyl-phosphine and diethyl azodicarboxylate are reacted and treated in the same manner as in Example 24 to give 5-(4-chlorophenyl)-2-(4-(3-dimethylaminopropyloxy)phenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | 5-(4-Chlorophenyl)-2-(4-hydroxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)O)C(=O)NC=1SC=CN1 | C19H13ClN4O2S
reactant | 3-dimethylaminopropanol | CN(CCCO)C | C5H13NO
reactant | triphenyl-phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-chlorophenyl)-2-(4-(3-dimethylaminopropyloxy)phenyl)-N-(2-thiazolyl)imidazole-4-carboxamide | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)OCCCN(C)C)C(=O)NC=1SC=CN1 | C24H24ClN5O2S
